US08334287B2
c) 2-Methyl-4-m-tolylethynyl-1H-imidazole
The title compound, orange solid, MS: m/e=197.2 (M+H+) was prepared in accordance with the general method of example 1c from 5-iodo-2-methyl-1H-imidazole and 1-ethynyl-3-methyl-benzene.

reactant | 5-iodo-2-methyl-1H-imidazole | IC1=CN=C(N1)C | C4H5IN2
reactant | 1-ethynyl-3-methyl-benzene | C(#C)C1=CC(=CC=C1)C | C9H8
product | 2-Methyl-4-m-tolylethynyl-1H-imidazole | CC=1NC=C(N1)C#CC=1C=C(C=CC1)C | C13H12N2
